US05721234
9-Methylamino-6-nitro-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione
9-Methylamino-1,2,3,4,7,8,9,10-octahydrobenzo[f]quinoxaline-2,3-dione hydrochloride (1 g, 3.5 mmol) was nitrated using fuming nitric acid (1 mL) and trifluoroacetic acid (30 mL) from 0° C. to room temperature for 1 h. The solvent was removed and their residue triturated in acetone:water and collected by filtration and dried to give the product (1.1 g). Calc'd for C13H14N4O4.HCl: C, 47.79; H, 4.63; N, 17.15; found: C, 43.36; H, 4.22; N, 18.85. MS M+1 (291).

reactant | 9-Methylamino-1,2,3,4,7,8,9,10-octahydrobenzo[f]quinoxaline-2,3-dione hydrochloride | 3.5 mmol, 1 g | Cl.CNC1CCC2=C(C=3NC(C(NC3C=C2)=O)=O)C1
reactant | nitric acid | 1 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 9-Methylamino-6-nitro-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione | 1.1 g | CNC1CCC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C13H14N4O4
